US06495541B1
(As described in Tet. Lett. 1997 p. 3841) [2-(4-Bromo-phenyl)-ethyl]-diethylamine (256 mg, 1.00 mmol), diboron pinacol ester (279 mg, 1.10 mmol), 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium (24 mg, 0.03 mmol), and potassium acetate (294 mg, 3.00 mmol) were combined in a schlenk tube. The vessel was evacuated then refilled with argon thrice. Degassed DMF (6 mL) was added and the mixture stirred at 80° C. under an argon atmosphere for 2 h. 2-Bromo-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one (239 mg, 0.90 mmol), a second portion of 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium (24 mg, 0.03 mmol), and sodium carbonate (2.5 mL of a 2.0 M aqueous solution, 5.00 mmol) were then added and the reaction stirred under an argon atmosphere at 80° C. for another 17 h. The reaction mixture was then poured into 25 mL water then extracted with 25% IPA/CHCl3 (3×20 mL). The combined organic extracts were dried (MgSO4) and concentrated in vacou leaving a brown oil. The crude product was passed through a short silica plug with 25% MeOH/CHCl3 then purified by radial chromatography eluting with 20% MeOH/CHCl3. Crystallization from MeOH/CHCl3/hexanes yielded 2-[4-(2-diethylamino-ethyl)-phenyl]-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one, 69 mg (19%) as a white solid: m.p. 224-224.5° C. (dec); 1H NMR (300 MHz, d6-DMSO) δ0.98 (t, J=6.9 Hz, 6H), 2.53 (q, J=7.2 Hz, 4H), 2.69 (m, 4H), 3.04 (m, 2H), 3.37 (m, 2H), 7.19 (t, J=7.8 Hz, 1H), 7.36 (d, J=8.1 Hz, 2H), 7.55 (m, 3H), 7.88 (dd, J=7.5, 0.9 Hz, 1H), 8.06 (br t, 1H), 11.51 (br s, 1H). MS (FAB, MH+): 362. Anal. (C23H27N3O) C, H, N.

reactant | [2-(4-Bromo-phenyl)-ethyl]-diethylamine | 1.00 mmol, 256 mg | BrC1=CC=C(C=C1)CCN(CC)CC | C12H18BrN
reactant | diboron pinacol ester | 1.10 mmol, 279 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.00 mmol, 294 mg | C(C)(=O)[O-].[K+]
reactant | 2-Bromo-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one | 0.90 mmol, 239 mg | BrC=1NC=2C=CC=C3C2C1CCNC3=O | C11H9BrN2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | water | 25 mL | O | H2O
product | 2-[4-(2-diethylamino-ethyl)-phenyl]-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one | C(C)N(CCC1=CC=C(C=C1)C=1NC=2C=CC=C3C2C1CCNC3=O)CC | C23H27N3O
